US06031015
Synthesis of diethyl-2,5-bis-(6-acetoxyhexoxy)terephthalate
50.0 g (86.0 mmol) diethyl-2,5-bis-(6-bromohexoxy)terephthalate, 84.5 g (861 mmol) potassium acetate and 4.4 g (11 mmol) methyl trioctyl ammonium chloride (Aliquat 336®, tricaprylyl methyl ammonium chloride, Fluka, CAS 5137.55.3) in 500 ml absolute acetonitrile are heated under reflux in a nitrogen atmosphere for 48 hours. After distilling off the solvent, the reaction mixture is taken up in 1200 ml ethyl acetate and washed three times with water (3×300 ml). The organic phase is dried over MgSO4 and the solvent is then distilled off. 1000 ml petroleum ether is added to the residual, oily residue and the product crystallizing out after 16 hours at -20° C. is recrystallized from petroleum ether/ethyl acetate.

reactant | diethyl-2,5-bis-(6-bromohexoxy)terephthalate | 86.0 mmol, 50.0 g | C(C)OC(C1=C(C=C(C(=O)OCC)C(=C1)OCCCCCCBr)OCCCCCCBr)=O | C24H36Br2O6
reactant | potassium acetate | 861 mmol, 84.5 g | C(C)(=O)[O-].[K+]
catalyst | methyl trioctyl ammonium chloride | 11 mmol, 4.4 g | [Cl-].C[N+](CCCCCCCC)(CCCCCCCC)CCCCCCCC
solvent | acetonitrile | 500 ml | C(C)#N | C2H3N
product | diethyl-2,5-bis-(6-acetoxyhexoxy)terephthalate | C(C)OC(C1=C(C=C(C(=O)OCC)C(=C1)OCCCCCCOC(C)=O)OCCCCCCOC(C)=O)=O | C28H42O10
